US04371644
bis[2-hydroxy-3-(7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]dec-8-yl)propyl]adipate (Compound No. 208)
A mixture of 10 g of 8-(2,3-epoxypropyl)-7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]decane and 2.4 g of adipic acid in 60 ml of xylene was refluxed for 16 hours. After completion of the reaction, the residue obtained by evaporating the solvent under reduced pressure from the reaction mixture was purified by column chromatography through silica gel eluted with a 1:1 by volume mixture of ethyl acetate and benzene. The desired Compound No. 208 was obtained in the form of a pale yellow, viscous product. The compound had an Rf value of 0.53 on thin-layer chromatography on silica gel developed with ethyl acetate.

reactant | 8-(2,3-epoxypropyl)-7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]decane | 10 g | O1C(CN2C(CC3(OCCO3)CC2(C)C)(C)C)C1 | C14H25NO3
reactant | adipic acid | 2.4 g | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | xylene | 60 ml | C=1(C(=CC=CC1)C)C | C8H10
product | bis[2-hydroxy-3-(7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]dec-8-yl)propyl]adipate | OC(COC(CCCCC(=O)OCC(CN1C(CC2(OCCO2)CC1(C)C)(C)C)O)=O)CN1C(CC2(OCCO2)CC1(C)C)(C)C | C34H60N2O10
